*Spice netlister for gnetlist
R5 n4 n5 1k
V1 n0 0 dc 1 pulse 0 1 0 10n 10n 250u 5m 0
*V1 n0 0 dc 1 ac 2 sin(0 2 100)
R4 n3 n4 1k
R3 n2 n3 5k
C5 n5 0 1n
R2 n1 n2 1K
C4 n4 0 1n
R1 n0 n1 1k
C3 n3 0 1n
C2 n2 0 1n
C1 n1 0 1n
I1 n5 0 DC 0.01mA
R6 0 n5 10k

.tran 0.1ms 0.05s
.print tran v(n0)
*.print tran i(n0)
.meas tran vtest find v(n5) at=0.04e-3
*.meas tran vtest find i(n0) at=0.04e-3
.end

.control
run
set gnuplot_terminal=png
gnuplot circuits/rc2.net v(n0) v(n5)
*gnuplot circuits/rc2.net v(n0) v(n5) i(n0)
.endc
